US06498172B1
7-[(Pyridine-3-sulfonyl)-(4-thiazol-2-yl-benzyl)-amino]-heptanoic acid methyl ester
The title compound of Step A was prepared from 7-(4-thiazol-2-yl-benzylamino)-heptanoic acid methyl ester, prepared in Step A of Example 11c, and pyridine-3-sulfonyl chloride hydrochloride, of Preparation 2, following the method of Example 1, Step B. 1H NMR (400 MHz, CDCl3) δ 9.06 (d, 1H), 8.80 (m, 1H), 8.09 (m, 1H), 7.91 (d, 2H), 7.86 (m, 1H), 7.46 (m, 1H), 7.34 (m, 3H), 4.39 (s, 2H), 3.62 (s, 3H), 3.15 (t, 2H), 2.21 (t, 2H), 1,48 (m, 2H), 1.37 (m, 2H), 1.14 (m, 4H); MS 474 (M+1)

reactant | 7-(4-thiazol-2-yl-benzylamino)-heptanoic acid methyl ester | COC(CCCCCCNCC1=CC=C(C=C1)C=1SC=CN1)=O | C18H24N2O2S
reactant | pyridine-3-sulfonyl chloride hydrochloride | Cl.N1=CC(=CC=C1)S(=O)(=O)Cl
product | 7-[(Pyridine-3-sulfonyl)-(4-thiazol-2-yl-benzyl)-amino]-heptanoic acid methyl ester | COC(CCCCCCN(CC1=CC=C(C=C1)C=1SC=CN1)S(=O)(=O)C=1C=NC=CC1)=O | C23H27N3O4S2
